US07795283B2
i) Allyl 2-morpholin-4-yl-5-nitrobenzoate
Morpholine (7.78 mL, 88.9 mmol) was added to a solution of 2-fluoro-5-nitrobenzoic acid allyl ester (prepared as described in WO 9315078; 10 g, 44.4 mmol) in acetonitrile (100 mL) and the mixture was heated under reflux for 6 h. Volatile material was removed by evaporation and the residue was diluted with water (100 mL) and extracted with EtOAc (2×100 mL). The organic layers were dried and concentrated by evaporation to give the title compound (12.87 g, 99%) as a viscous liquid; 1H NMR δ: 8.40(1H, s), 8.20 (1H, d), 7.10 (1H, d), 6.10-5.95 (1H, m), 5.40 (1H, d), 5.30 (1H, d), 4.80 (2H, s), 3.70-3.60 (4H, m), 3.20-3.10 (4H, m); MS m/e MH 293.

reactant | Morpholine | 88.9 mmol, 7.78 mL | N1CCOCC1 | C4H9NO
reactant | 2-fluoro-5-nitrobenzoic acid allyl ester | 44.4 mmol, 10 g | C(C=C)OC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C10H8FNO4
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | Allyl 2-morpholin-4-yl-5-nitrobenzoate | 12.87 g, 99% | N1(CCOCC1)C1=C(C(=O)OCC=C)C=C(C=C1)[N+](=O)[O-] | C14H16N2O5
